US06538015B1
582 mg of 4-Bromopyridine hydrochloride was treated with a 5% sodium carbonate solution then extracted three times with anhydrous diethyl ether. The combined extracts were then dried over anhydrous magnesium sulphate, filtered and evaporated to give a colourless oil. The colourless oil was dissolved in 3 ml of anhydrous terahydrofuran under nitrogen at room temperature and then treated with 1.5 ml of isopropylmagnesium chloride (2M solution in tetrahydrofuran). The mixture was stirred at room temperature for 1.5 h and then treated with a solution of 5-(3,5-dichlorophenylsulfanyl)-4-formyl-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester in 3 ml of anhydrous tetrahydrofuran. The mixture was then stirred for 1 h. The mixture was then treated with water and extracted with dichloromethane three times. The combined extracts were washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (1:1 to 2:1) for the elution to give 690 mg of 5-(3,5-dichlorophenylsulfanyl)-4-[(4-pyridyl)hydroxymethyl]-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester as a pale yellow oil. Mass spectrum (EST) m/z 466 [M+H]+.

reactant | 4-Bromopyridine hydrochloride | 582 mg | Cl.BrC1=CC=NC=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | isopropylmagnesium chloride | 2M, 1.5 ml | C(C)(C)[Mg]Cl
reactant | 5-(3,5-dichlorophenylsulfanyl)-4-formyl-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1C=O)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | C16H16Cl2N2O3S
solvent | terahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(3,5-dichlorophenylsulfanyl)-4-[(4-pyridyl)hydroxymethyl]-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester | 690 mg | C(C)OC(=O)C1=NN(C(=C1C(O)C1=CC=NC=C1)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | C21H21Cl2N3O3S
